US05760041
A mixture consisting of 3.25 g of 4-chloro-6-nitroquinazoline, 10.8 g of sodium hydrosulfite, and 0.3 g of the phase transfer catalyst (C8 H17)3NCH3 +Cl- in 97 ml of tetrahydrofuran and 32 ml of water was stirred rapidly for 2 hours. The mixture was diluted with ether and the organic layer was separated. The organic solution was washed with brine and then dried over magnesium sulfate. The solution was passed through a small column of silica gel. The solvent was removed at 30° C. at reduced pressure giving 6-amino-4-chloroquinazoline which is used in the next step without additional purification.

reactant | 4-chloro-6-nitroquinazoline | 3.25 g | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | sodium hydrosulfite | 10.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 97 ml | O1CCCC1 | C4H8O
solvent | water | 32 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 6-amino-4-chloroquinazoline | NC=1C=C2C(=NC=NC2=CC1)Cl | C8H6ClN3
